US04518597
6-[6-(3,4-Dichloro-phenylmercapto)-hexyloxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(6-bromohexyloxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 3,4-dichlorothiophenol.

reactant | 6-(6-bromohexyloxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | BrCCCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C16H22BrNO3
reactant | 3,4-dichlorothiophenol | ClC=1C=C(C=CC1Cl)S | C6H4Cl2S
product | 6-[6-(3,4-Dichloro-phenylmercapto)-hexyloxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)SCCCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C22H25Cl2NO3S
